US04012513
A mixture of p-methoxyphenylhydrazine (59 g.), 2,4,6-trichloropyrimidine (78.5 g.), and a solution of anhydrous sodium acetate (63 g.) in a mixture of water (260 ml.) and ethanol (1200 ml.) was shaken at room temperature for 2 hours. The crystalline precipitate which had formed was collected by filtration, washed with ethanol (50 ml.) and recrystallised from a mixture of chloroform (200 ml.) and ethanol (800 ml.) to give N-(p-methoxyphenyl)-N-(2,6-dichloropyrimidin-4-yl)hydrazine as a pale yellow solid, m.p. 156°-158° C. From the crystallisation mother liquors there was obtained, after chromatography on silica gel (300 g.) using a mixture containing equal parts by volume of ether and petroleum ether (b.p. 40° C.), N-(p-methoxyphenyl)-N-(4,6-dichloropyrimidin-2-ylhydrazine as a pale yellow solid, m.p. 113°-115° C.

reactant | p-methoxyphenylhydrazine | 59 g | COC1=CC=C(C=C1)NN | C7H10N2O
reactant | 2,4,6-trichloropyrimidine | 78.5 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | sodium acetate | 63 g | C(C)(=O)[O-].[Na+]
solvent | water | 260 ml | O | H2O
solvent | ethanol | 1200 ml | C(C)O | C2H6O
product | N-(p-methoxyphenyl)-N-(2,6-dichloropyrimidin-4-yl)hydrazine | COC1=CC=C(C=C1)N(N)C1=NC(=NC(=C1)Cl)Cl | C11H10Cl2N4O
